US06472386B1
Synthesis of 4-(tert-Butyldimethylsilyloxymethyl)-imidazole
4-Hydroxymethylimidazole hydrochloride (5.03 g) was dissolved in a mixed solvent of dichloromethane (90 mL) and DMF (20 mL), and to the solution triethylamine (8.25 g) was added at 0° C. tert-Butyldimethylchlorosilane (6.14 g) was then added to the mixture, and the resultant mixture was stirred at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was then purified by column chromatography on silica gel (chloroform:methanol=20:1) to obtain the title compound.

reactant | 4-Hydroxymethylimidazole hydrochloride | 5.03 g | Cl.OCC=1N=CNC1
reactant | triethylamine | 8.25 g | C(C)N(CC)CC | C6H15N
reactant | tert-Butyldimethylchlorosilane | 6.14 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-(tert-Butyldimethylsilyloxymethyl)-imidazole | [Si](C)(C)(C(C)(C)C)OCC=1N=CNC1 | C10H20N2OSi
